US08937071B2
A suspension of N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2-fluorophenyl)acetamide (800 mg, 1.520 mmol) in 1,4-dioxane (3 mL) and H2O (1 mL) was added to a solution of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (586 mg, 1.520 mmol) in 1,4-dioxane (3 mL) and H2O (1 mL). PdCl2(dppf) (111 mg, 0.152 mmol) and Cs2CO3 (990 mg, 3.04 mmol) were added and the mixture was at 110° C. for 30 min under microwave. The mixture was cooled to rt. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=1/1, Rf=0.5) to yield a light yellow solid of N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (230 mg, 0.326 mmol, 21.5% yield): 1H NMR (400 MHz, CD3OD) δ 7.95-7.94 (d, J=2.0 Hz, 1H), 7.90-7.89. (d, J=2.8 Hz, 1H), 7.45-7.38 (m, 6H), 7.37-7.25 (m, 6H), 6.92-6.90 (m, 2H), 5.36 (s, 2H), 4.61 (s, 2H), 4.25-4.24 (m, 2H), 4.23-4.11 (m, 2H), 3.85-3.83 (m, 2H), 3.79-3.77 (m, 2H), 1.45-1.41 (t, J=4.8 Hz, 3H); ES-LCMS m/z 705.1 (M+H).

reactant | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2-fluorophenyl)acetamide | 1.520 mmol, 800 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)Br)F)=O)C(F)(F)F | C24H20BrF4NO3
reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.520 mmol, 586 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | Cs2CO3 | 3.04 mmol, 990 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.152 mmol, 111 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.326 mmol, 230 mg, 21.5% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C39H36F4N2O6
